US03987047
1,2,4,5-Tetrahydro-8,11-dimethyl-3H-azepino[4,5-b]quinoline, 2,3,4,5-tetrahydro-8,11-dimethyl-1H-azepino[4,5-b]quinoline and their dihydrochlorides were prepared from hexahydro-azepinone-(4) hydrochloride and 2-amino-4-methyl-acetophenone analogous to Example 127. Yield of the dihydrochloride of the [4,5-b]-isomer: 17% of theory; m.p. 290°-292° C. (decomp.).

reactant | 2-amino-4-methyl-acetophenone | CC1=CC=C(C=C1)C(=O)CN | C9H11NO
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
product | 2,3,4,5-tetrahydro-8,11-dimethyl-1H-azepino[4,5-b]quinoline | CC=1C=CC=2C(=C3C(=NC2C1)CCNCC3)C | C15H18N2
